US08378104B2
Step A: 2-[3,5-bis(trifluoromethyl)phenyl]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine
A mixture of 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chlorofuro[2,3-c]pyridin-7-amine (83 mg, 0.18 mmol), 3,5-bis(trifluoromethyl)benzeneboronic acid (71 mg, 0.28 mmol), (1,1′-bis-(diphenylphosphino)ferrocene)palladium dichloride (13.5 mg, 0.0186 mmol), and potassium carbonate (77 mg, 0.56 mmol) in 1,4-dioxane (1.0 mL) and water (0.30 mL) was degassed 3× with argon and heated in a microwave reactor at 100° C. for 1 h. The mixture was partitioned between EtOAc and brine and the aqueous phase was extracted with EtOAc. The combined organic fractions were dried over sodium sulfate and concentrated. Purification of the residue by ISCO chromatography (0 to 5% 7 N NH3/MeOH:DCM) afforded 104 mg (90%) of the title compound as a foam. 1H NMR (400 MHz, CDCl3): δ 0.06-0.14 (m, 6H) 0.87-0.98 (m, 9H) 1.49-1.64 (m, 2H) 1.85-2.11 (m, 4H) 2.18-2.33 (m, 2H) 3.69-3.82 (m, 2H), 4.17-4.28 (m, 1H), 5.05 (br. s., 1H) 7.34 (s, 1H) 7.70 (s, 1H) 7.82 (s, 1H) 7.92 (s, 1H) 8.00 (s, 1H) 8.31 (s, 2H); MS (ESI): 624.34 [M+H]+; HPLC tR=2.00 min (TOF: nonpolar—3 min).

reactant | 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chlorofuro[2,3-c]pyridin-7-amine | 0.18 mmol, 83 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl | C22H31ClN4O2Si
reactant | 3,5-bis(trifluoromethyl)benzeneboronic acid | 0.28 mmol, 71 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | potassium carbonate | 0.56 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.30 mL | O | H2O
product | 2-[3,5-bis(trifluoromethyl)phenyl]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine | 104 mg, 90% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=2C(=C(N=CC2C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)N)O1)(F)F | C30H34F6N4O2Si
